US09024093B2
4-(Triethoxysilyl)benzophenone (S57)
[Rh(cod)(MeCN)2]BF4 (11.0 mg, 0.0300 mmol, 0.0300 equiv) and 4-iodobenzophenone (307 mg, 1.00 mmol, 1.00 equiv) were charged in 10 mL vial capped with a rubber septum. The vial was evacuated and backfilled with nitrogen. To this vial, DMF (4 mL), triethylamine (0.420 mL, 3.00 mmol, 3.00 equiv) and triethoxysilane (0.360 mL, 2.00 mmol, 2.00 equiv) were added. The reaction mixture was stirred at 80° C. for 2 h, then cooled to 23° C. The mixture was diluted with ether (50 mL) and washed three times with water (3×20 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by Kugelrohr distillation to give 275 mg of the title compound as a colorless oil (80% yield). Rf=0.45 (hexanes/EtOAc 3:1 (v/v)). NMR Spectroscopy: 1H NMR (500 MHz, CDCl3, 23° C., δ): 7.82−7.77 (m, 6H), 7.59 (t, J=7.5 Hz, 1H), 7.48 (dd, J=7.5 Hz, 7.5 Hz, 2H), 3.90 (q, J=7.0 Hz, 6H), 1.27 (t, J=7.0 Hz, 9H). 13C NMR (125 MHz, CDCl3, 23° C., δ): 196.84, 139.05, 137.29, 136.34, 134.66, 132.54, 130.11, 129.00, 128.28, 58.91, 18.21. Mass Spectrometry: HRMS-FIA (m/z): Calcd for [M+Na]+, 367.13361. Found, 367.13347.

reactant | 4-iodobenzophenone | 1.00 mmol, 307 mg, 1.00 equiv | IC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9IO
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | triethylamine | 3.00 mmol, 0.420 mL, 3.00 equiv | C(C)N(CC)CC | C6H15N
reactant | triethoxysilane | 2.00 mmol, 0.360 mL, 2.00 equiv | C(C)O[SiH](OCC)OCC | C6H16O3Si
solvent | ether | 50 mL | CCOCC | C4H10O
product | 4-(Triethoxysilyl)benzophenone | 275 mg, 80% yield | C(C)O[Si](C1=CC=C(C(=O)C2=CC=CC=C2)C=C1)(OCC)OCC | C19H24O4Si
